US09226922B2
To a suspension of 3-bromo-1-trityl-1H-pyrazolo[4,3-c]pyridine-6-carboxylic acid (1.95 g, 4.03 mmol) and diphenylphosphoryl azide (1.047 mL, 4.83 mmol) in 1,4-dioxane (19.50 mL) was added a mixture of TEA (0.842 mL, 6.04 mmol) in 1,4-dioxane (10 mL) drop-wise over 5 min. The reaction mixture was heated to 80° C. for 2 h. A solution of KOH (1 N, 20.13 mL, 20.13 mmol) was added at 80° C. The reaction mixture was stirred overnight. Room temperature was obtained and the reaction mixture was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (50% EtOAc/hexanes) to give 3-bromo-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine MS ESI calc'd. for C25H20BrN4 [M+H]+ 455. found 455.

reactant | 3-bromo-1-trityl-1H-pyrazolo[4,3-c]pyridine-6-carboxylic acid | 4.03 mmol, 1.95 g | BrC1=NN(C2=C1C=NC(=C2)C(=O)O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H18BrN3O2
reactant | diphenylphosphoryl azide | 4.83 mmol, 1.047 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | KOH | 20.13 mmol, 1 N, 20.13 mL | [OH-].[K+]
solvent | 1,4-dioxane | 19.50 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-bromo-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine | BrC1=NN(C2=C1C=NC(=C2)N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H19BrN4
